US06930120B2
3-{4-[2-(2-Biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-(2-methoxy-phenoxy)-2-methyl-propionic acid
Potassium carbonate (0.078 g, 0.56 mmol) was added to a solution of 3-(4-Hydroxy-phenyl)-2-methyl-2-o-tolyloxypropionic acid ethyl ester and toluene-4-sulfonic acid 2-(2-biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethyl ester in 4A sieve-dried ethanol (2 mL). The resultant mixture was stirred at 80° C. under an atmosphere of nitrogen for 18 h, then diluted with ethanol (2 mL). 5N NaOH (0.5 mL) was added, then the reaction mixture was refluxed for 2 h. The reaction mixture was concentrated in vacuo, diluted with 1N HCl, and extracted with CH2Cl2. The organic layer was dried through a Varian ChemElut cartridge, concentrated in vacuo, and purified by LCMS. 1H NMR (400 MHz, CDCl3): • 7.96-7.92 (m, 2H), 7.40 (t, 3H, J=3.13 Hz), 7.12 (d, 2H, J=6.65 Hz), 7.06 (t, 1H, J=7.82 Hz), 6.91 (t, 1H, J=7.82 Hz), 6.80 (t, 4H, J=6.65 Hz), 4.17 (t, 2H, J=6.65 Hz), 3.25 (d, 1H, J=14.08 Hz), 3.19 (d, 1H, J=14.08 Hz), 2.98 (t, 2H, J=6.65 Hz), 2.17 (s, 3H), 1.48 (s, 3H), 1.24 (s, 3H). MS [ES+] m/z exact mass calcd for C29H30NO5 472.2124, found 472.2129.

reactant | Potassium carbonate | 0.56 mmol, 0.078 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(4-Hydroxy-phenyl)-2-methyl-2-o-tolyloxypropionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(OC1=C(C=CC=C1)C)C)=O | C19H22O4
reactant | toluene-4-sulfonic acid 2-(2-biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethyl ester | C1(=CC=C(C=C1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C)C1=CC=CC=C1 | C25H23NO4S
reactant | NaOH | 5N, 0.5 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-{4-[2-(2-Biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-(2-methoxy-phenoxy)-2-methyl-propionic acid | C1(=CC=C(C=C1)C=1OC(=C(N1)CCOC1=CC=C(C=C1)CC(C(=O)O)(C)OC1=C(C=CC=C1)OC)C)C1=CC=CC=C1 | C35H33NO6
